*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0201AF-330
* Inductance = 0.033uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0201AF-330_freq port1 port2 PARAMS: Cpar=0.168pF Ind=0.033uH
X1 port1 port2 Model1A PARAMS:
+ R1=408
+ R2=0.15
+ C= {Cpar}
+ K1=1E-09
+ K2=0.0014
+ K3= {Ind}
+ K4=0.00152
+ K5=1.35E-07
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=63.8476706
.ends 0201AF-330_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0201AF-510
* Inductance = 0.051uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0201AF-510_freq port1 port2 PARAMS: Cpar=0.054pF Ind=0.051uH
X1 port1 port2 Model1A PARAMS:
+ R1=558
+ R2=0.25
+ C= {Cpar}
+ K1=1.1E-09
+ K2=0.0178
+ K3= {Ind}
+ K4=0.002
+ K5=1.21E-07
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=651.268654
.ends 0201AF-510_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0201AF-680
* Inductance = 0.068uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0201AF-680_freq port1 port2 PARAMS: Cpar=0.066pF Ind=0.068uH
X1 port1 port2 Model1A PARAMS:
+ R1=526
+ R2=0.33
+ C= {Cpar}
+ K1=1.04E-09
+ K2=0.0221
+ K3= {Ind}
+ K4=0.00211
+ K5=1.19E-07
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=725.795056
.ends 0201AF-680_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0201AF-910
* Inductance = 0.091uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0201AF-910_freq port1 port2 PARAMS: Cpar=0.057pF Ind=0.091uH
X1 port1 port2 Model1A PARAMS:
+ R1=596
+ R2=0.37
+ C= {Cpar}
+ K1=1.12E-09
+ K2=0.0404
+ K3= {Ind}
+ K4=0.00283
+ K5=8.9E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1141.96349
.ends 0201AF-910_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0201AF-111
* Inductance = 0.11uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0201AF-111_freq port1 port2 PARAMS: Cpar=0.055pF Ind=0.11uH
X1 port1 port2 Model1A PARAMS:
+ R1=636
+ R2=0.05
+ C= {Cpar}
+ K1=1.06E-09
+ K2=0.047
+ K3= {Ind}
+ K4=0.00351
+ K5=8.1E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1296.66435
.ends 0201AF-111_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0201AF-141
* Inductance = 0.14uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0201AF-141_freq port1 port2 PARAMS: Cpar=0.041pF Ind=0.14uH
X1 port1 port2 Model1A PARAMS:
+ R1=663
+ R2=0.65
+ C= {Cpar}
+ K1=1.17E-09
+ K2=0.0498
+ K3= {Ind}
+ K4=0.00351
+ K5=8.1E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1608.15141
.ends 0201AF-141_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0201AF-171
* Inductance = 0.17uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0201AF-171_freq port1 port2 PARAMS: Cpar=0.032pF Ind=0.17uH
X1 port1 port2 Model1A PARAMS:
+ R1=726
+ R2=0.86
+ C= {Cpar}
+ K1=1.17E-09
+ K2=0.0631
+ K3= {Ind}
+ K4=0.00351
+ K5=8.1E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2121.05455
.ends 0201AF-171_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0201AF-201
* Inductance = 0.21uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0201AF-201_freq port1 port2 PARAMS: Cpar=0.034pF Ind=0.21uH
X1 port1 port2 Model1A PARAMS:
+ R1=736
+ R2=1.25
+ C= {Cpar}
+ K1=9.1E-10
+ K2=0.112
+ K3= {Ind}
+ K4=0.00391
+ K5=8.1E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3098.9764
.ends 0201AF-201_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Power Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model1A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K2=1
+ K3=1
+ K4=1
+ K5=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar2 N001 Lout LAPLACE { V(N001, Lout) } {1/K2/(-S*S/4/PI^2)^0.25}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
G_Lvar N003 Lout  LAPLACE { V(N003, Lout) } {1/(S*1e-6*({K3*1e6}-({K4}*LOG({K5}*(sqrt(-S*S)/(2*pi))))))}
*This large resistance to ground has been added to prevent a floating node error
R3 N003 0 100Meg
.ends Model1A


.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
